* Schematics Netlist *
.include "../Models/MOSIS.txt"

IIS1 ndd nbias_tailCS   DC  0        


VVS1 ndd nss   DC  0        


VVS2 nss 0   DC  0        


VVS3 inp_p nss   DC  0        


VVS4 inp_n nss   DC  0        


XM_3a out_diff_p pbias_diff ndd ndd pmos W=0.27u L=0.18u
XM_3b out_diff_n pbias_diff ndd ndd pmos W=0.27u L=0.18u
XM_4a out_p out_diff_p nss nss nmos W=0.6u L=0.4u
XM_4b out_n out_diff_n nss nss nmos W=0.6u L=0.4u
XM_5a out_p pbias_2ndStage ndd ndd pmos W=0.27u L=0.18u
XM_5b out_n pbias_2ndStage ndd ndd pmos W=0.27u L=0.18u
XM_inpPair_n out_diff_n inp_n n_tailCS nss nmos W=0.6u L=0.4u
XM_inpPair_p out_diff_p inp_p n_tailCS nss nmos W=0.6u L=0.4u
XM_tailCS n_tailCS nbias_tailCS nss nss nmos W=0.6u L=0.4u
XM_tail_diode nbias_tailCS nbias_tailCS nss nss nmos W=0.6u L=0.4u


.end


